US07750161B2
D1. 1-(2-Chloro-ethyl)-3-(2,6-dimethyl-pyridin-4-yl)-urea
2,6-Dimethyl-pyridin-4-ylamine (Example C1.2., 1.22 g, 10 mmol) is dissolved in dry THF (30 mL) and 1-chloro-2-isocyanato-ethane (1.06 g, 10 mmol) is added. The mixture is stirred at r.t. for 15 h. The mixture is evaporated and the residue purified by MPLC to provide the title compound.

reactant | 2,6-Dimethyl-pyridin-4-ylamine | 10 mmol, 1.22 g | CC1=NC(=CC(=C1)N)C | C7H10N2
reactant | 1-chloro-2-isocyanato-ethane | 10 mmol, 1.06 g | ClCCN=C=O | C3H4ClNO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-ethyl)-3-(2,6-dimethyl-pyridin-4-yl)-urea | ClCCNC(=O)NC1=CC(=NC(=C1)C)C | C10H14ClN3O
